US07842685B2
A slurry of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-chlorothiazolo[5,4-b]pyridine (5.00 g, 14.3 mmol) in 100 mL 1:1 THF/5N aq. HCl was heated in a sealed tube to 70° C. The thick orange mixture was cooled slightly and an additional 50 mL THF was added. The reaction mixture was sealed and heating continued. After 2 h, the reaction mixture was cooled and allowed to stir 3 days at ambient temperature. The reaction mixture was cooled and THF was removed in vacuo. The resulting yellow solid was collected by filtration through a frit, rinsing with water. The material was dried on the frit for several hours and dried in vacuo overnight to give 4-(5-chlorothiazolo[5,4-b]pyridine-2-yl)-3-fluorobenzaldehyde as a light yellow/orange solid. MS (ESI) m/z: calculated: 292.0: Observed: 292.9 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-chlorothiazolo[5,4-b]pyridine | 14.3 mmol, 5.00 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)Cl)F | C16H12ClFN2O2S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5N | C1CCOC1 | C4H8O
product | 4-(5-chlorothiazolo[5,4-b]pyridine-2-yl)-3-fluorobenzaldehyde | ClC1=CC=C2C(=N1)SC(=N2)C2=C(C=C(C=O)C=C2)F | C13H6ClFN2OS
